Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Eliquis
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
TAVR ___ ___ 23mm valve 
PPM ___ ___ ACCOLADE MRI ___

 
History of Present Illness:
___ is a ___ year old woman with a known history of aortic 
stenosis who has been experiencing dyspnea on exertion 
(specifically with stairs).  She presented for planned TAVR on 
___. 

 
Past Medical History:
Cardiac History:  
 - severe AS
 - HTN
 - HLD
 - PAD s/p ___ bypass ___

Other PMH:  
 - Pemphigus vulgaris

 
Social History:
___
Family History:
No significant cardiac disease, early MI, sudden
cardiac death in family. 

 
Physical Exam:
Admission Physical Exam:
======================
VS:  HR 70 BP 94/45 99% on RA
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 


NECK: Supple. No JVD
CARDIAC: Normal rate, regular rhythm. mild crescendo decrescendo
murmur, rubs, or gallops.  
 LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
 ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
 SKIN: No significant lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.  
 NEURO:  moves all extremities bilaterally
Discharge Physical Exam:
============================
VS: 135/50, 75, 18, 98% ra, 97.4
Tele: ___, SR, LBBB 
EKG: rate 90, SR, LBBB 0.17/0.15/0.41
GENERAL: Well developed, well nourished in NAD. 
Mood, affect appropriate. 
HEENT: Normocephalic, atraumatic. Sclera anicteric. 
NECK: Supple. No JVD
CARDIAC: Normal rate, regular rhythm. no murmur, rubs, or 
gallops. 
LUNGS: Respiration is unlabored with no accessory muscle use. No
adventitious breath sounds. 
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. Left arm severe ecchymosis tracking from pacer 
site
SKIN: No significant lesions or rashes. left CW pacer site CD+I 
w/o crepitus or erythema
PULSES: Distal pulses palpable and symmetric. 
NEURO: moves all extremities bilaterally, alert and oriented 
without focal deficits 

Weight: 234 lbs

 
Pertinent Results:
Labs on Admission:
======================
___ 11:45AM BLOOD WBC-8.3 RBC-3.85* Hgb-12.7 Hct-39.3 
MCV-102* MCH-33.0* MCHC-32.3 RDW-13.6 RDWSD-51.2* Plt ___
___ 11:45AM BLOOD ___ PTT-29.0 ___
___ 11:45AM BLOOD UreaN-17 Creat-0.7 Na-136 K-4.2 Cl-92* 
HCO3-27 AnGap-17
___ 11:45AM BLOOD ALT-20 AST-25 AlkPhos-71 TotBili-0.5
___ 10:47AM BLOOD CK-MB-10 cTropnT-0.22*
___ 10:47AM BLOOD Calcium-9.3 Phos-4.0 Mg-1.5*
___ 11:45AM BLOOD ___ pO2-39* pCO2-49* pH-7.38 
calTCO2-30 Base XS-2
___ 11:45AM BLOOD Lactate-1.4
Labs on Discharge:
=======================

___ 06:05AM BLOOD WBC-7.7 RBC-2.67* Hgb-9.0* Hct-28.0* 
MCV-105* MCH-33.7* MCHC-32.1 RDW-13.6 RDWSD-52.5* Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD UreaN-10 Creat-0.6 Na-139 K-4.2 Cl-101 
HCO3-28 AnGap-10
___ 06:05AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.7

OTHER TESTS:
=============
___ Imaging CHEST (PA & LAT) 
IMPRESSION:  
In comparison with the study of ___, the single lead 
pacer is been 
removed and replaced with a dual channel pacer via a left 
subclavian approach with leads extending to the right atrium and 
right ventricle.  No evidence of postinsertion pneumothorax. 
Cardiac silhouette remains within normal limits and there is no 
vascular congestion, pleural effusion, or acute focal pneumonia. 

___ Cardiovascular EP Brief Procedure Report 
Findings
___ with CHB post TAVR referred for PPM.
RA/RV placed via L cephalic vein.
RVOT location chosen to avoid probing apex in s/o DAPT and 
recent UFH exposure.
RIJ wire removed under flouro.
No complications
___ Imaging CHEST PORT. LINE PLACEM 
IMPRESSION:  
No comparison. The patient has received an external pacemaker. 
The tip 
projects over the right ventricle. No pneumothorax or other 
complication.  No pulmonary edema, no pneumonia, no pleural 
effusions. 
___ TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler.
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is normal regional and global left ventricular 
systolic function. Quantitative 3D
volumetric left ventricular ejection fraction is 65 % (normal 
54-73%). Visually ejection fraction >=70%. Left ventricular 
cardiac index is high (>4.0 L/min/m2). There is no resting left 
ventricular outflow
tract gradient. No ventricular septal defect is seen. Normal 
right ventricular cavity size with normal free wall
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with a 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal
descending aorta diameter. There is no evidence for an aortic 
arch coarctation. A ___ 3 aortic valve bioprosthesis is 
present. The prosthesis is well seated with leaflets not well 
seen but normal gradient. The effective orifice area index is 
normal (>=0.85 cm2/m2). There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is moderate mitral annular calcification.
There is mild functional mitral stenosis from the prominent 
mitral annular calcification. There is trivial mitral 
regurgitation. Due to acoustic shadowing, the severity of mitral 
regurgitation could be UNDERestimated. The pulmonic valve 
leaflets are not well seen. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
Due to acoustic shadowing, the severity of tricuspid 
regurgitation may be UNDERestimated. There is mild-moderate 
pulmonary artery systolic hypertension. There is a trivial 
pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Well seated, normal functioning ___ 3 TAVR with 
normal gradient and no aortic regurgitation. Mild to moderate 
pulmonary artery systolic hypertension.
Compared with the prior TTE (images reviewed) of ___ , 
TAVR gradients are higher but on the prior they were only 
measured from the apical 5 chamber and on the current highest 
gradient measured from
the right parasternal window. They are still within normal 
limits for a #23 ___ 3.
MEASUREMENTS:
Peak Gradient: 23mmHg
Mean Gradient: 12mmHg

 
Brief Hospital Course:
___ yo with severe AS, PAD s/p ___ bypass ___, HTN, HLD who was 
admitted for TAVR on ___. Procedure was complicated by 
complete heart block. Patient initially paced with a balloon tip 
pacer through a RIJ line, now s/p permanent pacemaker placement. 


 #CORONARIES: no CAD
 #PUMP: LVEF 70%
 #RHYTHM: NSR

ACUTE ISSUES: 
============= 
# Severe AS s/p TAVR
Patient with a history of AS, admitted for TAVR on ___. 
After procedure was noted to be in complete heart block. 
Initially had temporary balloon tip pacer through a RIJ line, 
now s/p permanent pacemaker placement. Prior to discharge, pacer 
function was confirmed. TTE ___ confirmed TAVR placement and 
function. She was continued on her home ASA, Plavix. 

# Complete Heart Block:
s/p ___ ACCOLADE MRI ___ DDD 
-F/U at device clinic in one week.

# Tachycardia: Atrial tachycardia up to 140's with activity 
noted on telemetry. pt asymptomatic. No sign of infection or 
bleeding. Discussed increasing metoprolol with Dr. ___ 
discussed with Dr. ___ felt we should allow native 
conduction and not suppress.

# Hypertension: 
-Continue hydrochlorothiazide, Metoprolol and Lisinopril

# PAD s/p ___ bypass ___ and DES
Status post left femoropopliteal stent, which appears occluded 
on ___ CT. Correlation with symptoms is recommended. No 
symptoms while inpt.
She was continued on her home ASA, plavix, atorvastatin. 

# Pemphigus vulgaris
She was continued on her home prednisone, niacin, doxycycline.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO EVERY OTHER DAY 
2. Lisinopril 10 mg PO DAILY 
3. Niacin 500 mg PO TID 
4. Metoprolol Tartrate 50 mg PO BID 
5. Atorvastatin 80 mg PO QPM 
6. Multivitamins 1 TAB PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Doxycycline Hyclate 100 mg PO Q12H 
11. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  Doxycycline Hyclate 100 mg PO Q12H  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Metoprolol Tartrate 50 mg PO BID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Niacin 500 mg PO TID  
11.  PredniSONE 5 mg PO EVERY OTHER DAY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=======================
Severe aortic stenosis
complete heart block

SECONDARY DIAGNOSIS
=====================
Hypertension
Peripheral artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for a trans catheter aortic valve repair 
(TAVR)to treat your aortic valve stenosis which was done on 
___. By repairing the valve your heart can pump blood more 
easily and your shortness of breath should improve.
It is very important to take all of your heart healthy 
medications. In particular, you are taking Plavix and aspirin. 
These medication keep blood clots from forming on the new valve. 
If you stop this medication or miss ___ dose, you risk causing a 
blood clot forming on your new valve. This could cause it to 
malfunction and it may be life threatening. Please do not stop 
taking aspirin without taking to your heart doctor, even if 
another doctor tells you to stop the medications.

After your TAVR You underwent a pacemaker placement due to a 
slow heart rhythm called complete heart block.
 
You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your recent cardiac 
procedure. One hour prior to your dental procedure take 
amoxicillin 2 gram once.

Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. Your weight on discharge is 152 lbs.

We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.

If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ HeartLine at ___ 
to speak to a cardiologist or cardiac nurse practitioner.

It was a pleasure taking care of you. We wish you the best with 
your health!
 
Followup Instructions:
___